US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(4-chlorophenyl)piperazine (Compound 142)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(4-chlorophenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 2.50 (s, 3H), 3.18-3.28 (m, 4H), 3.73-3.78 (m, 4H), 4.14 (s, 3H), 6.86 (dd, J=12.2 Hz, 2H), 7.00-7.60 (m, 5H), 7.71 (d, J=8.2 Hz, 1H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(4-chlorophenyl)piperazine | 91% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C21H22ClN5O2
